US06166006
In THF (20 ml) and methanol (20 ml) was dissolved N-(4-nitrobenzyl)-N-(2-pyrimidinyl)amine (921 mg, 4.00 mmol), and to the mixture were added at 0° C. nickel bromide (137 mg) and sodium boro hydride(955 mg). The mixture was stirred at room temperature for 30 minutes and concentrated under reduced pressure. To the residue were added ethyl acetate, THF and water, and the insoluble materials were filtered off. The aqueous layer was extracted with ethyl acetate-THF, and the organic layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified with column chromatography (silica gel 30 g, ethyl acetate/hexane=1/1), and the desired fraction was concentrated under reduced pressure. To the residue was added diethylether, and the insoluble materials were filtered, which were washed with diethylether and dried under reduced pressure to give 4-[N-(2-pyrimidinyl)aminomethyl]aniline (208 mg, 1.04 mmol, 26%).

reactant | N-(4-nitrobenzyl)-N-(2-pyrimidinyl)amine | 4.00 mmol, 921 mg | [N+](=O)([O-])C1=CC=C(CNC2=NC=CC=N2)C=C1 | C11H10N4O2
reactant | sodium boro hydride | 955 mg | [BH4-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
catalyst | nickel bromide | 137 mg | [Ni](Br)Br
product | 4-[N-(2-pyrimidinyl)aminomethyl]aniline | 1.04 mmol, 208 mg, 26% | N1=C(N=CC=C1)NCC1=CC=C(N)C=C1 | C11H12N4
